US06949542B2
4-(3-Pyridin-3-yl-phenyl)-8-trifluoromethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-trifluoromethoxy-phenyl}-carbamic acid tert-butyl ester (Example M167) (238 mg, 0.46 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (137 mg, 75%).

reactant | {2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-trifluoromethoxy-phenyl}-carbamic acid tert-butyl ester | 0.46 mmol, 238 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C26H24F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Pyridin-3-yl-phenyl)-8-trifluoromethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1=CC(=CC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)OC(F)(F)F | C21H14F3N3O2
